US05234946
Production of (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-methyl-3-benzyloxy-5-methylbenzylamine hydrochloride (compound 48)
3-Benzyloxy-5-methylbenzyl bromide (118 mg) and 76 mg of (E)-N-methyl-6,6-dimethyl-2-hepten-4-ynylamine hydrochloride were dissolved in 25 ml of dimethylformamide, and 67 mg of potassium carbonate was added. The mixture was stirred overnight at room temperature. The reaction mixture was evaporated under reduced pressure, and the residue was purified by preparative thin-layer chromatography [thin layer plate: Kieselgel 60F254, Art. 5715 (a product of E. Merck Co.); developing solvent: hexane/ethyl acetate=4/1]. The purified compound was then converted into a hydrochloride using HCl methanol solution. Treatment with a mixture of tetrahydrofuran and hexane gave 102 mg (yield 60.9%) of the captioned compound as a colorless crystalline powder having a melting point of 180° to 186° C.

reactant | 3-Benzyloxy-5-methylbenzyl bromide | 118 mg | C(C1=CC=CC=C1)OC=1C=C(CBr)C=C(C1)C | C15H15BrO
reactant | (E)-N-methyl-6,6-dimethyl-2-hepten-4-ynylamine hydrochloride | 76 mg | Cl.CNC\C=C\C#CC(C)(C)C
reactant | potassium carbonate | 67 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-methyl-3-benzyloxy-5-methylbenzylamine hydrochloride | 102 mg, yield 60.9% | Cl.CC(C#C/C=C/CN(C)CC1=CC(=CC(=C1)C)OCC1=CC=CC=C1)(C)C | InChI=1S/C25H31NO.ClH/c1-21-16-23(19-26(5)15-11-7-10-14-25(2,3)4)18-24(17-21)27-20-22-12-8-6-9-13-22;/h6-9,11-13,16-18H,15,19-20H2,1-5H3;1H/b11-7+;
